US04384879
(d) Preparation of the intermediate 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolan-5-one
63.5 g (0.22 mole) of 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-hydroxymethyl-1,3-dioxolan-5-one are dissolved in 400 ml of pyridine and to this solution are added 28.9 g of methanesulfonyl chloride at 0° to 5° C. The resultant suspension is stirred for 2 hours at the same temperature, then poured into ice-water and extracted with methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated to dryness. The residual resin is crystallised by addition of a small amount of diethyl ether/hexane and the product is isolated by filtration. Melting point: 98°-100° C.

reactant | 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-hydroxymethyl-1,3-dioxolan-5-one | 0.22 mole, 63.5 g | CC1(OC(C(O1)(CO)C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H12Cl2O4
reactant | methanesulfonyl chloride | 28.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolan-5-one | CC1(OC(C(O1)(COS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)=O)C | C13H14Cl2O6S
